US06355636B1
To 500 mg of 4-hydroxy-6-trimethylsilanylethynyl-[1.7]naphthyridine-3-carbonitrile under an inert atmosphere was added 10 mL of phosphorous oxychloride. After two hours at reflux, the excess phosphorous oxychloride was removed in vacuo and ice-water, chloroform, a tract of methanol, and aqueous saturated sodium bicarbonate were added. The chloroform layer was washed with brine, dried with sodium sulfate, and evaporated to give 626 mg of crude 4-chloro-6-trimethylsilanylethynyl-[1.7]naphthyridine-3-carbonitrile as a yellowish solid, which was used in the following step.

reactant | 4-hydroxy-6-trimethylsilanylethynyl-[1.7]naphthyridine-3-carbonitrile | 500 mg | OC1=C(C=NC2=CN=C(C=C12)C#C[Si](C)(C)C)C#N | C14H13N3OSi
reactant | phosphorous oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-trimethylsilanylethynyl-[1.7]naphthyridine-3-carbonitrile | 626 mg | ClC1=C(C=NC2=CN=C(C=C12)C#C[Si](C)(C)C)C#N | C14H12ClN3Si
